US07534797B2
3-Cyclobutyl-1-quinolin-7-yl-imidazo[1,5-a]pyrazin-8-ylamine
Gaseous NH3 was condensed into a cooled (dry ice/acetone) solution of 7-(8-chloro-3-cyclobutylimidazo[1,5-a]pyrazin-1-yl)-quinoline (203.2 mg, 0.607 mmol) in 2M NH3/iPrOH (6 mL) in a pressure tube until the volume was doubled, then the tube was sealed and heated to 110° C. (bath temp.) for 19 h. The ammonia was evaporated, the crude material was adsorbed onto Hydromatrix and chromatographed on silica gel [Jones Flashmaster, 10 g/70 mL cartridge, eluting with CH2Cl2 1:1 (1-6)→2% MeOH in CH2Cl2 (7-27)→4% MeOH in CH2Cl2 (28-37)→5% MeOH in CH2Cl2 (38-53)→7% MeOH in CH2Cl2 (54-67)], yielding the title compound as a yellow solid, >98% pure by HPLC, mp. 94-96° C.; 1H NMR (CDCl3, 400 MHz) δ 2.00-2.10 (m, 1H), 2.12-2.25 (m, 1H), 2.47-2.57 (m, 2H), 2.61-2.73 (m, 2H), 3.85 (quint, J=8.4 Hz, 1H), 5.23 (brs, 2H), 7.10 (d, J=4.4 Hz, 1H), 7.16 (d, J=4.4 Hz, 1H), 7.44 (dd, J=4.2, 8.2 Hz, 1H), 7.95 (d, J=8.4 Hz, 1H), 8.00 (d, J=8.4 Hz, 1H), 8.22 (d, J=8.2 Hz, 1H), 8.36 (s, 1H), 8.95-9.00 (m, 1H); MS (ES+): m/z 316.2 (30) [MH+].

reactant | NH3 | N | H3N
reactant | dry ice acetone | C(=O)=O.CC(=O)C
reactant | 7-(8-chloro-3-cyclobutylimidazo[1,5-a]pyrazin-1-yl)-quinoline | 0.607 mmol, 203.2 mg | ClC=1C=2N(C=CN1)C(=NC2C2=CC=C1C=CC=NC1=C2)C2CCC2 | C19H15ClN4
solvent | NH3 iPrOH | 2M, 6 mL | N.CC(C)O
product | 3-Cyclobutyl-1-quinolin-7-yl-imidazo[1,5-a]pyrazin-8-ylamine | C1(CCC1)C1=NC(=C2N1C=CN=C2N)C2=CC=C1C=CC=NC1=C2 | C19H17N5
